US07642361B2
3-(4-tert-butyl-phenyl)4-cyano-5-methylsulfanyl-furan-2-carboxylic acid ethyl ester
Add a solution of the bromoethyl acetate (2.13 ml, 19.17 mmol) in THF (10 ml) dropwise to a −78 ° C. solution of the lithium hexamethylsillylamide (1M, 21 ml, 20.7 mmol) in THF. Stir the mixture at −78° C. for 10 minutes and treat with a dropwise solution of 2-(4-tert-butyl-benzoyl)-3,3-bis-methylsulfanyl-acrylonitrile (2.25 g, 7.67 mmol) in THF (20 ml). Stir the mixture at −78° C. for 30 minutes and at RT for 6 h. Pour into a saturated solution of ammonium chloride (100 ml). Extract organic with EtOAc (3×100 ml). Combine the organics wash with water (3×100 ml), brine (100 ml), dry over magnesium sulfate, filter and concentrate under reduced pressure. Purification by flash chromatography, eluting with ethyl acetate:hexanes (1:9) provides the title compound (1 g, 38%): Mass spectrum (M+1)=344.

reactant | bromoethyl acetate | 19.17 mmol, 2.13 ml | C(C)(=O)OCCBr | C4H7BrO2
reactant | lithium | [Li] | Li
reactant | 2-(4-tert-butyl-benzoyl)-3,3-bis-methylsulfanyl-acrylonitrile | 7.67 mmol, 2.25 g | C(C)(C)(C)C1=CC=C(C(=O)C(C#N)=C(SC)SC)C=C1 | C16H19NOS2
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 3-(4-tert-butyl-phenyl)4-cyano-5-methylsulfanyl-furan-2-carboxylic acid ethyl ester | 1 g, 38% | C(C)OC(=O)C=1OC(=C(C1C1=CC=C(C=C1)C(C)(C)C)C#N)SC | C19H21NO3S
